US06414009B1
3-(5-Formyl-2-furyl)-1-(4-picolyl)indazole
1 g (2.77 mmol) of 3-(5-(1,3-dioxan-2-yl)furan-2-yl)-1-(4-picolyl)indazole is dissolved in 10 ml of acetone, and 20 ml of 50 per cent strength acetic acid are added. The mixture is boiled for 1 hour, introduced into water and extracted with ethyl acetate and the organic phase is dried with sodium sulphate and evaporated in vacuo to give 0.8 g (95.3% of theory) of an oil. Rf (SiO2, ethyl acetate): 0.25

reactant | 3-(5-(1,3-dioxan-2-yl)furan-2-yl)-1-(4-picolyl)indazole | 2.77 mmol, 1 g | O1C(OCCC1)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)CC1=CC=NC=C1 | C21H19N3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(5-Formyl-2-furyl)-1-(4-picolyl)indazole | C(=O)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)CC1=CC=NC=C1 | C18H13N3O2
